US04343803
Preparation of 5-Chloro-6-Methyl-2-Trichloromethyl-4-Pyrimidinyl Dimethylcarbamate
A mixture of 3.9 g (0.015 mole) 5-chloro-4-hydroxy-6-methyl-2-trichloromethylpyrimidine, 1.6 g (0.015 mole) triethylamine, 1.7 g (0.015 mole) dimethylcarbamoyl chloride, and 80 ml acetonitrile was refluxed 3 days. Rotary evaporation to concentrate the solution yielded a precipitate that was removed by filtration. Rotary evaportation of the filtrate gave a residue which was triturated with petroleum ether to give 1.0 g (20% yield; mp 87°-88° C.) of product. The structure was confirmed via infrared and elemental analysis.

reactant | 5-chloro-4-hydroxy-6-methyl-2-trichloromethylpyrimidine | 0.015 mole, 3.9 g | ClC=1C(=NC(=NC1C)C(Cl)(Cl)Cl)O | C6H4Cl4N2O
reactant | triethylamine | 0.015 mole, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 0.015 mole, 1.7 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 5-Chloro-6-Methyl-2-Trichloromethyl-4-Pyrimidinyl Dimethylcarbamate | 20% yield | CN(C(OC1=NC(=NC(=C1Cl)C)C(Cl)(Cl)Cl)=O)C | C9H9Cl4N3O2
